US04381359
2,2-bis-(4-hydroxyphenyl)-propane;
2,2-bis-(3,5-dimethyl-4-hydroxyphenyl)-propane; 2,2-bis-(3,5-dichloro-4-hydroxyphenyl)-propane; 2,2-bis-(3,5-dibromo-4-hydroxyphenyl)-propane and 1,1-bis-(4-hydroxyphenyl)-cyclohexane.

reactant | 2,2-bis-(3,5-dimethyl-4-hydroxyphenyl)-propane | CC=1C=C(C=C(C1O)C)C(C)(C)C1=CC(=C(C(=C1)C)O)C | C19H24O2
reactant | 2,2-bis-(3,5-dichloro-4-hydroxyphenyl)-propane | ClC=1C=C(C=C(C1O)Cl)C(C)(C)C1=CC(=C(C(=C1)Cl)O)Cl | C15H12Cl4O2
reactant | 2,2-bis-(3,5-dibromo-4-hydroxyphenyl)-propane | BrC=1C=C(C=C(C1O)Br)C(C)(C)C1=CC(=C(C(=C1)Br)O)Br | C15H12Br4O2
reactant | 1,1-bis-(4-hydroxyphenyl)-cyclohexane | OC1=CC=C(C=C1)C1(CCCCC1)C1=CC=C(C=C1)O | C18H20O2
product | 2,2-bis-(4-hydroxyphenyl)-propane | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
